US07829582B2
4-[(R)-3-(3,5-Dichloro-4′-methoxycarbonyl-biphenyl-4-ylmethyl)-2-oxo-pyrrolidin-1-yl]-piperidine-1-carboxylic acid tert-butyl ester
Treat a solution of 4-[3-(2,6-Dichloro-4-trifluoromethanesulfonyloxy-benzyl)-2-oxo-pyrrolidin-1-yl]-piperidine-1-carboxylic acid tert-butyl ester (Preparation 15) (0.5 g, 0.9 mmol), 4-methoxycarbonylphenylboronic acid (0.31 g, 1.7 mmol), and tetrakis(triphenylphosphine)palladium(0) (0.1 g, 0.1 mmol) in DME (5 mL) with 2M aqueous K2CO3 (1.3 mL), heat the reaction to 80° C., and stir overnight. Cool the reaction and quench with 1N HCl. Extract the aqueous with EtOAc. Wash the organic with brine, dry over MgSO4, and filter. Purify the crude by silica gel column chromatography using Hexanes:EtOAc to elute the pure product. Remove the solvent to afford 0.43 g (88%) of desired product. MS (m/e): 583 (M+Na+).

reactant | 4-[3-(2,6-Dichloro-4-trifluoromethanesulfonyloxy-benzyl)-2-oxo-pyrrolidin-1-yl]-piperidine-1-carboxylic acid tert-butyl ester | 0.9 mmol, 0.5 g | C(C)(C)(C)OC(=O)N1CCC(CC1)N1C(C(CC1)CC1=C(C=C(C=C1Cl)OS(=O)(=O)C(F)(F)F)Cl)=O | C22H27Cl2F3N2O6S
reactant | 4-methoxycarbonylphenylboronic acid | 1.7 mmol, 0.31 g | COC(=O)C1=CC=C(C=C1)B(O)O | C8H9BO4
reactant | K2CO3 | 2M, 1.3 mL | C(=O)([O-])[O-].[K+].[K+]
solvent | DME | 5 mL | COCCOC | C4H10O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.1 mmol, 0.1 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-[(R)-3-(3,5-Dichloro-4′-methoxycarbonyl-biphenyl-4-ylmethyl)-2-oxo-pyrrolidin-1-yl]-piperidine-1-carboxylic acid tert-butyl ester | 0.43 g, 88% | C(C)(C)(C)OC(=O)N1CCC(CC1)N1C([C@@H](CC1)CC1=C(C=C(C=C1Cl)C1=CC=C(C=C1)C(=O)OC)Cl)=O | C29H34Cl2N2O5
